US08106043B2
N,N-Dimethyl-2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanamine:
To a stirred suspension of 6-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine (500 mg, 2.55 mmol), 2-chloro-N,N-dimethylethanamine hydrochloride (734 mg, 5.10 mmol), and tetrabutylammonium bromide (41.1 mg, 0.127 mmol) in dichloromethane (5 mL) was added 50% aqueous NaOH (5 mL). The reaction vessel was then sealed, and the mixture was stirred vigorously overnight at room temperature. The mixture was then diluted with water and extracted with dichloromethane (3×). The combined organics were dried, filtered, concentrated, and then chromatographed in 1:4:5 (2M NH3 in methanol):ethyl acetate:dichloromethane, giving the desired product (80 mg, 11.74%) and significant amounts of starting material. 1H NMR (DMSO-d6) δ 7.44 (d, J=2.4 Hz, 1H), 7.36 (dd, J=8.4, 2.4 Hz, 1H), 7.19 (d, J=8.4 Hz, 1H), 3.69-3.64 (m, 2H), 3.48 (t, J=6.9 Hz, 2H), 3.14-3.09 (m, 2H), 2.45 (t, J=6.9 Hz, 2H), 2.22 (s, 6H); ESI-MS (m/z, %): 268 (MH+, 100).

reactant | 6-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine | 2.55 mmol, 500 mg | [N+](=O)([O-])C1=CC2=C(SCCN2)C=C1 | C8H8N2O2S
reactant | 2-chloro-N,N-dimethylethanamine hydrochloride | 5.10 mmol, 734 mg | Cl.ClCCN(C)C
reactant | NaOH | 5 mL | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.127 mmol, 41.1 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N,N-Dimethyl-2-(6-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethanamine | 80 mg, 11.74% | CN(CCN1C2=C(SCC1)C=CC(=C2)[N+](=O)[O-])C | C12H17N3O2S
